US06294558B1
3-(4-Bromophenyl)-4-(4-methylthiophenyl)-3-buten-2-one. (step 1)
The title compound was prepared according to the procedure of step 1 in the Example 190 using (4-bromophenyl)acetone and 4-methylthiobenzaldehyde, instead of phenylacetone and 4-bromobenzaldehyde.

reactant | (4-bromophenyl)acetone | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | 4-methylthiobenzaldehyde | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | phenylacetone | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 3-(4-Bromophenyl)-4-(4-methylthiophenyl)-3-buten-2-one | BrC1=CC=C(C=C1)C(C(C)=O)=CC1=CC=C(C=C1)SC | C17H15BrOS
